US06664427B1
The 2′-ethyl-salicylanilide was prepared by condensing phenyl salicylate with 2-ethylaniline then purified as described in Example 2a. The ligand mixture was then prepared from 2′-ethyl-salicylanilide and 1,1′-bi-2-naphthol using the procedure described in Example 2a. 31P NMR (121.77 MHz): several peaks between 117.1-118.8 ppm.

reactant | phenyl salicylate | C(C=1C(O)=CC=CC1)(=O)OC1=CC=CC=C1 | C13H10O3
reactant | 2-ethylaniline | C(C)C1=C(N)C=CC=C1 | C8H11N
product | 2′-ethyl-salicylanilide | C(C)C1=C(NC(C=2C(O)=CC=CC2)=O)C=CC=C1 | C15H15NO2
